US08445510B2
1-(1,4-Dioxaspiro[4.5]dec-8-yl)-4-iodo-3,5-dimethyl-1H-pyrazole
To a solution of 3,5-dimethyl-4-iodopyrazole (400.0 mg, 1.802 mmol) in DMF (7 mL, 100 mmol) was added sodium hydride (56.20 mg, 2.342 mmol), and the mixture was stirred at rt for 10 min. A solution of 1,4-dioxaspiro[4.5]dec-8-yl 4-methylbenzenesulfonate (619.1 mg, 1.982 mmol), prepared according to U.S. Pat. No. 4,360,531 example 1.B, in DMF was added, and the mixture was heated to 50° C. overnight. The material was extracted with EtOAc, and washed with water (3×). The organic layer was dry-loaded onto silica gel for column chromatography, eluting with 20-30% EtOAc/hexanes. The fractions containing the pure product were concentrated in vacuo to afford the title compound as a clear oil. 1H NMR (400 MHz, DMSO-d6): δ=1.61-1.80 (m, 6H), 1.94-2.06 (m, 2H), 2.08 (s, 3H), 2.25 (s, 3H), 3.82-3.93 (m, 4H), 4.23 (tt, J=11.5, 3.7 Hz, 1H). MS (ES+): m/z=364.07 (100) [MH+]. HPLC: tR=1.51 min (polar—3 min, UPLC-ACQUITY).

reactant | 3,5-dimethyl-4-iodopyrazole | 1.802 mmol, 400.0 mg | CC1=NNC(=C1I)C | C5H7IN2
reactant | sodium hydride | 2.342 mmol, 56.20 mg | [H-].[Na+]
reactant | 1,4-dioxaspiro[4.5]dec-8-yl 4-methylbenzenesulfonate | 1.982 mmol, 619.1 mg | CC1=CC=C(C=C1)S(=O)(=O)OC1CCC2(OCCO2)CC1 | C15H20O5S
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 100 mmol, 7 mL | CN(C)C=O | C3H7NO
product | 1-(1,4-Dioxaspiro[4.5]dec-8-yl)-4-iodo-3,5-dimethyl-1H-pyrazole | O1CCOC12CCC(CC2)N2N=C(C(=C2C)I)C | C13H19IN2O2
